US07442698B2
Alternatively, the nitro derivative was prepared as follows: 3,4-Difluoronitro phenol (3 g, 18.7 mmol) and 3-hydroxy-1-methylpiperidine (2.5 g, 19.3 mmol) were dissolved in dry THF (100 mL) under nitrogen. Sodium hydride (60%, 1 g, 25 mmol) was slowly added under positive nitrogen pressure. The resulting light yellow solution was heated at 60° C. for 2.5 h. The dark-red solution was left to cool to room temperature and quenched with a solution of acetic acid (0.3 mL, 5.2 mmol) in methanol (10 mL). Solvent was removed under reduced pressure to yield an orange solid that was purified by column chromatography using DCM: MeOH (75: 25) as eluent to yield 3-(2-fluoro-4-nitro phenoxymethyl)-1-methylpiperidine as an orange oil.

reactant | 3,4-Difluoronitro phenol | 18.7 mmol, 3 g | FC=1C(=C(C=CC1F)O)[N+](=O)[O-] | C6H3F2NO3
reactant | 3-hydroxy-1-methylpiperidine | 19.3 mmol, 2.5 g | OC1CN(CCC1)C | C6H13NO
reactant | Sodium hydride | 25 mmol, 1 g | [H-].[Na+]
reactant | acetic acid | 5.2 mmol, 0.3 mL | C(C)(=O)O | C2H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 3-(2-fluoro-4-nitro phenoxymethyl)-1-methylpiperidine | FC1=C(OCC2CN(CCC2)C)C=CC(=C1)[N+](=O)[O-] | C13H17FN2O3
